US07939672B2
After the 5-bromo-2-(4-bromophenyl)-2-isopropylpentanoic acid methyl ester (200 mg, 1 eq) was dissolved in acetonitrile, 4-phenylpiperazine (70 mg, 1 eq) as a piperazine derivative, Et3N (0.06 ml, 1.2 eq), and sodium iodate were added into the solution and heated and refluxed for 3 hours. When the reaction was completed, the precipitate was filtrated and the mixture was vacuum distilled and extracted with ethyl acetate and water. After the organic layer was washed with 1N HCl and saturated NaHCO3, the target compound 2-(4-bromophenyl)-2-isopropyl-5-(4-phenylpiperazine-1-yl)pentanoic acid methyl ester was obtained by drying the mixture with anhydrous sodium sulfate and removing the solvent at low pressures (69 mg, 42%).

reactant | 5-bromo-2-(4-bromophenyl)-2-isopropylpentanoic acid methyl ester | 200 mg, 1 eq | COC(C(CCCBr)(C(C)C)C1=CC=C(C=C1)Br)=O | C15H20Br2O2
reactant | 4-phenylpiperazine | 70 mg, 1 eq | C1(=CC=CC=C1)N1CCNCC1 | C10H14N2
reactant | piperazine | N1CCNCC1 | C4H10N2
reactant | Et3N | 0.06 ml, 1.2 eq | CCN(CC)CC | C6H15N
reactant | sodium iodate | I(=O)(=O)[O-].[Na+]
solvent | acetonitrile | C(C)#N | C2H3N
product | 2-(4-bromophenyl)-2-isopropyl-5-(4-phenylpiperazine-1-yl)pentanoic acid methyl ester | COC(C(CCCN1CCN(CC1)C1=CC=CC=C1)(C(C)C)C1=CC=C(C=C1)Br)=O | C25H33BrN2O2
